US07163937B2
Preparation H1, Step 2: A solution of 2-phenylisonicotinic acid (459 mg, 2.30 mmol) in 9:1 benzene/methanol (20 mL) was cooled to 0° C., and treated with the dropwise addition of a 2.0 M hexane solution of (trimethylsilyl)diazomethane (1.15 mL, 2.30 mmol). The mixture was allowed to come to room temperature and stirred for 6 h. Analysis by TLC indicated incomplete reaction, so the mixture was treated with additional (trimethylsilyl)diazomethane solution (230 μL, 0.23 mmol), and the reaction was stirred for an additional 2 h. TLC of the mixture remained unchanged. The solvent was stripped, and the residue was partitioned between ethyl acetate and saturated sodium bicarbonate. The layers were separated, the organic phase was washed 2× with saturated sodium bicarbonate, the combined aqueous phases were extracted with ethyl acetate, and the combined organic phases were washed with brine, dried over sodium sulfate, and concentrated in vacuo. The residue was purified over silica gel, eluting with 20% ethyl acetate/heptane, to yield 372 mg of methyl 2-phenylisonicotinate as a colorless oil. 1H NMR (400 MHz, CDCl3) δ ppm 8.83 (d, J=5.27 Hz, 1H), 8.29 (s, 1H), 8.04 (d, J=7.03 Hz, 2H), 7.77 (d, J=3.52 Hz, 1H), 7.51–7.42 (m, 3H), 3.98 (s, 3H).

reactant | 2-phenylisonicotinic acid | 2.30 mmol, 459 mg | C1(=CC=CC=C1)C=1C=C(C(=O)O)C=CN1 | C12H9NO2
reactant | benzene methanol | 20 mL | C1=CC=CC=C1.CO
reactant | (trimethylsilyl)diazomethane | 2.30 mmol, 1.15 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | (trimethylsilyl)diazomethane | 0.23 mmol, 230 μL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | hexane | 2.0 M | CCCCCC | C6H14
product | methyl 2-phenylisonicotinate | 372 mg | C1(=CC=CC=C1)C=1C=C(C(=O)OC)C=CN1 | C13H11NO2
